US06992087B2
To a solution of (1R,2S)-1-[(6-chloropyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol (2 g, 7.6 mmol) in MeOH (26 mL) was added a solution of NaOMe (1.3 g, 23 mmol) in MeOH (40 mL). The mixture was heated at reflux for 24 hr. Additional NaOMe (1.3 g) was added. Continue heating at reflux for 24 hr, and then add additional NaOMe (1.3 g). Continue heating at reflux for 24 hr and cool to rt. Dilute with EtOAc and was with sat. aq. NaHCO3. The solids were removed by filtration. Separate phases and wash organic extract with additional sat. aq. NaHCO3. Dry organic extracts over MgSO4, filter and concentrate. Purify by biotage MPLC (90 g column, 25% ethyl acetate/hexanes) to afford 1.4 g (71%) of (1R,2S)-1-[(6-methoxypyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol as an oil: 1H NMR (CDCl3) δ 3.04-3.08, 3.23-3.29, 3.91, 4.75-4.78, 5.18, 5.42-5.45, 7.25-7.34, 7.57-7.61; MS (ESI+) for C14H15N3O2 m/z 258 (M+H)+.

reactant | (1R,2S)-1-[(6-chloropyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | 7.6 mmol, 2 g | ClC1=CN=CC(=N1)N[C@H]1[C@H](CC2=CC=CC=C12)O | C13H12ClN3O
reactant | NaOMe | 23 mmol, 1.3 g | C[O-].[Na+]
reactant | NaOMe | 1.3 g | C[O-].[Na+]
reactant | NaOMe | 1.3 g | C[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 26 mL | CO | CH4O
solvent | MeOH | 40 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1R,2S)-1-[(6-methoxypyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | 1.4 g, 71% | COC1=CN=CC(=N1)N[C@H]1[C@H](CC2=CC=CC=C12)O | C14H15N3O2
